US09290451B2
6-(3-Chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (Example 140 a) and 2-(2-methoxy-ethoxy)-1,1-dimethyl-ethylamine (CAN 947723-29-7) as starting materials, MS (EI): m/e=454.1 [M+H]+.

reactant | 6-(3-chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)N1CC(C1)(F)F | C15H11ClF2N2O2
reactant | 2-(2-methoxy-ethoxy)-1,1-dimethyl-ethylamine | COCCOCC(C)(C)N | C7H17NO2
product | 6-(3-Chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-amide | COCCOCC(C)(C)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)C1=CC(=CC=C1)Cl | C22H26ClF2N3O3
